Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a hx of GERD, rosacea, BPH and stage ___ unresectable 
extrahepatic choangiocarcinoma on gemcitabine/cisplatin (___), recently treated for C. diff, hx of GNR bacteremia 
presenting with predominantly dry cough x2 weeks, fatigue x2 
days, and low grade fever x1 day. Pt reports that he has a 
"cold" for the past two weeks, which he describes as nasal 
congestion productive of clear, nonbloody mucus, as well as 
cough intermittently productive of clear, nonbloody sputum. He 
reports that he has been taking delsym at night with some relief 
of cough. He completed CyberKnife radiation on ___, after which 
he reports feeling well. He describes tolerating his 
chemotherapy on ___ without incident. On ___, he noticed 
insomnia in the
evening, which is unusual for him. On ___ he slept late, and 
awoke feeling very fatigued. At that time, his wife reportedly 
asked pt to measure his temperature; pt reports that she asked 
because she "worries about" him. Temp was initially 99.0, on 
multiple checks went as high as 101, both aural and 
sublingually. Pt's wife phoned covering oncologist, who advised 
presentation to
ED.
Pt reports that his stools have been unchanged over the past 
week. Last BM was at home prior to coming to ED, and was soft, 
nonbloody, nonmelanotic. He believes that his stools were at his 
baseline when he was diagnosed with C. diff. He denies 
subjective fevers, chills, nausea, vomiting, diarrhea, dysuria, 
sinus pain, chest pain, SOB, rash. 
.
In ___ ED:
100.8, HR 102, BP 141/85, RR 16, 98% RA
Received 1L IVF
BCx, UCx, CXR done
Admitted for further evaluation and treatment
.
ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI
 
Past Medical History:
ONCOLOGIC HISTORY:
DIAGNOSIS: T3N2M0 (stage ___ unresectable extrahepatic
cholangiocarcinoma, seen C5D1 gemcitabine/cisplatin

ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma.  Cytology was 
suspicious for carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
C. diff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis
- ___ completed CK radiation and resume C5D1 Gem/Cis
.
PMH:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He has no other 
family history of malignancy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.3, HR 96, BP 148/86, RR 18, SaO2 97% RA
GEN:  elderly male, alert and oriented x3, comfortable, no acute 
distress
HEENT:  PERRL, anicteric, conjunctiva pink, oropharynx without 
lesion or exudate, dry mucus membranes. No sinus TTP.
LYMPH:  no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR:  regular rate and rhythm without murmurs, rubs, 
or gallops
LUNGS:  clear to auscultation bilaterally without rhonchi, 
wheezes, or crackles
ABDOMEN:  soft, nontender, without rebounding or guarding, 
nondistended with normal active bowel sounds.
EXTREMITIES:  no clubbing, cyanosis, or edema
SKIN:  no rashes, petechia, lesions, or echymoses; warm to 
palpation
NEURO:  A&Ox3, cranial nerves II-XII intact, moving all 
extremities
PSYCH:  normal mood and affect
.
DISCHARGE PHYSICAL EXAM:
Similar to above.  
Notable for AVSS, afebrile x <24hr, normotensive, normal HR
Gen: NAD, fatigued
HEENT: anicteric, MMM
CV: RRR, no murmur
Lungs: CTAB/L, no crackles or wheeze
Abd: soft, NT, ND, NABS
Ext: WWP, no edema
Skin: No rash
Neuro: AAOx3, fluent speech
 
Pertinent Results:
ADMISSION LABS:
================
___ 09:40PM BLOOD WBC-5.3 RBC-3.80* Hgb-11.4* Hct-35.2* 
MCV-93 MCH-30.1 MCHC-32.4 RDW-15.2 Plt ___
___ 09:40PM BLOOD Neuts-88.0* Lymphs-8.8* Monos-1.5* 
Eos-1.4 Baso-0.3
___ 09:40PM BLOOD Glucose-101* UreaN-11 Creat-0.7 Na-134 
K-3.9 Cl-102 HCO3-19* AnGap-17
___ 07:15AM BLOOD ALT-14 AST-25 LD(LDH)-148 AlkPhos-82 
Amylase-45 TotBili-1.7* DirBili-0.4* IndBili-1.3
___ 07:15AM BLOOD Albumin-3.7 Calcium-9.1 Phos-3.9 Mg-1.9
___ 09:52PM BLOOD Lactate-1.8
___ 10:30PM URINE Color-Straw Appear-Clear Sp ___
___ 10:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:30PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-1
.
DISCHARGE LABS:
=================
___ 06:50AM BLOOD WBC-3.4* RBC-3.28* Hgb-9.9* Hct-31.1* 
MCV-95 MCH-30.1 MCHC-31.8 RDW-15.2 Plt Ct-82*
___ 06:50AM BLOOD Glucose-106* UreaN-10 Creat-0.8 Na-137 
K-3.6 Cl-102 HCO3-27 AnGap-12
___ 06:50AM BLOOD ALT-16 AST-23 AlkPhos-82 TotBili-0.4
___ 06:50AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.0
.
MICROBIOLOGY:
==============
___ Blood cultures x 2 sets: NGTD, final PENDING
___ Urine culture: >= 3 colony types
.
___ 12:56 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture for further 
information. 
.
IMAGING:
=========
___ CT Abd / Pelvis
IMPRESSION: 
1.  Stable intrahepatic biliary ductal dilatation with 
pneumobilia.  Two 
common bile duct stents remain in place. Given the large degree 
of 
pneumobilia, this suggests that the stent draing the left 
biliary system is partially obstructed.
2.  Resolved findings of colitis.
.
___ PA/Lat CXR
IMPRESSION:  Basilar atelectasis without convincing signs of 
pneumonia. Interval removal of PICC line.
 
Brief Hospital Course:
___ with a hx of GERD, rosacea, BPH and stage ___ unresectable 
extrahepatic choangiocarcinoma on gemcitabine/cisplatin (___), recently treated for C. diff, hx of GNR bacteremia 
presenting with predominantly dry cough x2 weeks, fatigue x2 
days, and low grade fever x1 day. 
.
# Fever: Reported temp at home as high as 101, 100.8 at ED 
triage. No localizing symptoms except for cough which maybe 
chronic and congestion x2 weeks. Given history of GNR bacteremia 
due to cholangitis concern for there was concern for recurrent 
cholangitis. Additionally, bilirubin was elevated to 1.7 on 
admission which is higher than baseline. Antibioitics were held 
and the patent had a CT abdomen which raised concern for 
partially occluded stents. His case was discussed with the ERCP 
team, and given that he defevervesced, LFTs normalized and he 
was without abdominal pain, ERCP was not completed. The patient 
also had negative urine, blood cultures (x72 hours, final 
pending) and was ruled out for influenza. C. diff was not sent 
as he was having normal, formed stools.  His CT scan did not 
show any evidence of colitis.  Suspect that his symptoms may 
have been due to viral illness.  He does have mild leukopenia 
and mild thrombocytopenia, which could be due to viral illness, 
or alternatively to his chemotherapy.  
.
# Cholangiocarcinoma: s/p 5 cycles of Cis/Gem.  Patient will 
follow with his oncologist as an outpatient.
.
# Migraines:  Stable. Continued Atenolol
.
# BPH: Stable.  Continued Terazosin.
.
TRANSITIONAL ISSUES:
=====================
1.  f/u with outpt oncologist
2.  should have CBC re-checked as outpt to assess for resolution 
of leukopenia and thrombocytopenia
3.  PENDING STUDIES AT TIME OF DISCHARGE:
### ___ Blood cultures x 2 sets: NGTD, final PENDING
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU BID 
4. Loratadine 10 mg PO DAILY 
5. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. OLANZapine 5 mg PO HS 
8. Pantoprazole 40 mg PO Q24H 
9. Terazosin 10 mg PO HS 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. OLANZapine 5 mg PO HS 
6. Pantoprazole 40 mg PO Q24H 
7. Terazosin 10 mg PO HS 
8. Fluticasone Propionate NASAL 2 SPRY NU BID 
9. Loratadine 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever possibly due to cholangitis
Extrahepatic cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with fevers. Your liver 
tests were elevated and you had a CT scan to make sure the 
stents in your bile ducts were still in place. The CT showed 
that the stents may be blocked, causing your fever, but you had 
no further fevers and your liver tests normalized.  Your case 
was discussed and reviewed with the Advanced Endoscopy Team.  We 
suspect your symptoms may have been due to acute viral illness.  
Your blood counts (the white blood cells and the platelet count) 
are a little low, and we recommend that you have them re-checked 
when you follow-up with your oncologists.  You should follow up 
with your oncologist as scheduled.
 
Followup Instructions:
___